US08445509B2
Production of 2-cyano-N-(3,4-difluorophenyl)acetamide
A mixed solution of 3,4-difluoroaniline (10 g, 77.5 mmol) and ethyl cyanoacetate (10.5 g, 92.9 mmol) was heated to 180° C. and stirred for 8 hr. After cooling to room temperature, the mixture was dissolved in ethyl acetate/tetrahydrofuran and washed with water and saturated brine in this order. The mixture was dried over anhydrous magnesium sulfate and filtered. The solvent was evaporated under reduced pressure, and the obtained residue was washed with ethyl acetate and collected by filtration to give the title compound (7.6 g, 56%) as a yellow solid.

reactant | 3,4-difluoroaniline | 77.5 mmol, 10 g | FC=1C=C(N)C=CC1F | C6H5F2N
reactant | ethyl cyanoacetate | 92.9 mmol, 10.5 g | C(#N)CC(=O)OCC | C5H7NO2
solvent | ethyl acetate tetrahydrofuran | C(C)(=O)OCC.O1CCCC1
product | 2-cyano-N-(3,4-difluorophenyl)acetamide | 7.6 g, 56% | C(#N)CC(=O)NC1=CC(=C(C=C1)F)F | C9H6F2N2O
